US04245094
5-Amino-7,8-dihydro-8-ethyl-2-methyl-7-oxo-pyrido-[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution containing 5.4 g. (0.02 mole) of the sodium salt of 5-amino-7,8-dihydro-2-methyl-7-oxo-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester in 50 ml. of dimethylformamide was added 9.35 g. (0.06 mole) of ethyl iodide. The reaction mixture was heated to 50° for 4 hours; cooled in ice and then poured into one liter of water. The reaction mixture was kept in a cold room for 3 days and was then filtered. The product amounted to 3.4 g. (m.p. 230°-231°). The analytical sample was obtained by recrystallization from ethanol.

reactant | sodium | 0.02 mole | [Na] | Na
reactant | 5-amino-7,8-dihydro-2-methyl-7-oxo-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C)NC1=O)N | C11H12N4O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 0.06 mole | C(C)I | C2H5I
solvent | water | one liter | O | H2O
product | 5-Amino-7,8-dihydro-8-ethyl-2-methyl-7-oxo-pyrido-[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C)N(C1=O)CC)N | C13H16N4O3
